US06916804B2
N-[2-({2-(4-Chlorophenyl)-6-[4-(quinolin-2-ylcarbonyl)piperazin-1-yl]pyrimidin-4-yl}amino)ethyl]acetamide (34.1)
A solution of quinaldic acid (60 μl of a 0.3M solution in NMP), HATU (60 μl of a 0.3M solution in NMP) and diisopropylethylamine (60 μl of a 0.3M solution in NMP) was shaken at ambient temperature in a well of a 96 position microtitre plate for 5 min. N-(2-{[2-(4-chlorophenyl)-6-piperazin-1-ylpyrimidin-4-yl]amino}ethyl)acetamide (30 μl of a 0.3M solution in NMP) was then added and the mixture shaken for a further 12 hr. Purification via ion exchange silica (SCX) yields the title compound.

reactant | quinaldic acid | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(2-{[2-(4-chlorophenyl)-6-piperazin-1-ylpyrimidin-4-yl]amino}ethyl)acetamide | ClC1=CC=C(C=C1)C1=NC(=CC(=N1)NCCNC(C)=O)N1CCNCC1 | C18H23ClN6O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-[2-({2-(4-Chlorophenyl)-6-[4-(quinolin-2-ylcarbonyl)piperazin-1-yl]pyrimidin-4-yl}amino)ethyl]acetamide | ClC1=CC=C(C=C1)C1=NC(=CC(=N1)NCCNC(C)=O)N1CCN(CC1)C(=O)C1=NC2=CC=CC=C2C=C1 | C28H28ClN7O2
